US07557114B2
(b) 5-Ethyl-6-trifluoromethyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
To a stirred solution 0.54 mmol 5-trifluoromethyl-6-vinyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester in 50 ml methanol was added 50 mg 10% palladium on charcoal and the mixture was stirred under an atmosphere of hydrogen (0.6 bar positive pressure) for 72 h. The reaction mixture was then filtered and the filtrate was concentrated in vacuo. The residue was purified by chromatography (SiO2, heptane/ethyl acetate) to yield the title compound as a white solid (20% yield). MS (m/e): 260.0 ([M+H−Me2C═CH2]+, 100%).

reactant | 5-trifluoromethyl-6-vinyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)C(F)(F)F)C=C | C16H18F3NO2
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium on charcoal | 50 mg | [Pd] | Pd
product | 5-Ethyl-6-trifluoromethyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 20% yield | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)CC)C(F)(F)F | C16H20F3NO2
